US06066657
7-Methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic Acid (3,5-dichloro-1-hydroxy-pyridin-4-yl)-amide
Prepared from sodium hydride (115 mg of a 60% dispersion in oil), 4-amino-3,5-dichloropyridine-N-oxide (474 mg), 7-methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic acid 4-nitrophenyl ester (389 mg) in N,N-dimethylformamide. Purification by column chromatography eluting with 20% methanol in dichloromethane afforded the desired product as a light brown solid (106 mg).

reactant | sodium hydride | [H-].[Na+]
reactant | 4-amino-3,5-dichloropyridine-N-oxide | 474 mg | NC1=C(C=[N+](C=C1Cl)[O-])Cl | C5H4Cl2N2O
reactant | 7-methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic acid 4-nitrophenyl ester | 389 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)C(C)OC2CCNCC2)OC | C23H24N2O7
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Methoxy-2-(1-methyl-piperidin-4-yloxymethyl)-benzofuran-4-carboxylic Acid (3,5-dichloro-1-hydroxy-pyridin-4-yl)-amide | 106 mg | ClC=1CN(C=C(C1NC(=O)C=1C=CC(=C2C1C=C(O2)C(C)OC2CCNCC2)OC)Cl)O | C22H25Cl2N3O5
